US05780470
1-[6-(1-Propyloxy)indan-1-yl]piperazine
Piperazine (20.6 g, 0.24 mol), 6-(1-propoxy)indan-1-one (4.6 g, 24 mmol), titanium(IV) isopropoxide (16 ml, 48 mmol) and sodium borohydride (2.8 g, 74 mmol) were reacted by Method A to give the product which was converted to the fumarate salt (beige solid, 5.0 g, 55.4%, mp: 157°-159° C.). Calcd for C16H24N2O.C4H4O4.0.3H2O: C, 62.91%; H, 7.55%; N, 7.34%. Found: C, 62.70%; H, 7.45%; N, 7.07%.

reactant | Piperazine | 0.24 mol, 20.6 g | N1CCNCC1 | C4H10N2
reactant | 6-(1-propoxy)indan-1-one | 24 mmol, 4.6 g | C(CC)OC1=CC=C2CCC(C2=C1)=O | C12H14O2
reactant | sodium borohydride | 74 mmol, 2.8 g | [BH4-].[Na+]
catalyst | titanium(IV) isopropoxide | 48 mmol, 16 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 1-[6-(1-Propyloxy)indan-1-yl]piperazine | C(CC)OC1=CC=C2CCC(C2=C1)N1CCNCC1 | C16H24N2O
